US04200641
To a stirred and hot (±50° C.) mixture of 34 parts of 1,3-dihydro-5-methyl-1-(1-methylethenyl)-2H-benzimidazol-2-one, 5 parts of N,N,N-triethylbenzenemethanaminium chloride and 300 parts of a sodium hydroxide solution 50% are added 57 parts of 1-bromo-3-chloropropane (exothermic reaction: temperature rises to 70° C.). The whole is stirred for one hour at 65°-70° C. The reaction mixture is cooled and poured onto crushed ice. The product is extracted with methylbenzene. The extract is washed three times with water, dried, filtered and evaporated. The oily residue is distilled, yielding 3-(3-chloropropyl)-1,3-dihydro-5-methyl-1-(1-methylethenyl)-2H-benzimidazol-2-one; bp. 140° C. at 0.02 mm. pressure.

reactant | 1,3-dihydro-5-methyl-1-(1-methylethenyl)-2H-benzimidazol-2-one | CC1=CC2=C(N(C(N2)=O)C(=C)C)C=C1 | C11H12N2O
reactant | sodium hydroxide | [OH-].[Na+]
reactant | 1-bromo-3-chloropropane | BrCCCCl | C3H6BrCl
catalyst | N,N,N-triethylbenzenemethanaminium chloride | [Cl-].C(C)[N+](CC1=CC=CC=C1)(CC)CC
product | 3-(3-chloropropyl)-1,3-dihydro-5-methyl-1-(1-methylethenyl)-2H-benzimidazol-2-one | ClCCCN1C(N(C2=C1C=C(C=C2)C)C(=C)C)=O | C14H17ClN2O
